Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:4]([H:5])([H:6])[H:7].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7],-5.77633041278
[H:1][C:2]#[C:3]/[C:4](=[C:5](\[H:6])[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3]/[C:4](=[C:5]/[O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:6],4.94360899321
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13],4.58797119815
[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10][H:11]>>[C:4]([H:5])=[O:6].[O:1](/[C:2]([H:3])=[C:8](\[H:9])[C:10][H:11])[H:7],2.7859036027
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]#[C:2][C:3]([H:4])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:5],1.67891499176
[C:3]([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-7.218405397989999
[H:1][O:2]/[C:3]([H:4])=[C:7](\[O:6][C:5])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C@@:3]1([H:4])[C:5][O:6][C:7]1[C:8]([H:9])([H:10])[H:11],0.523894091601
[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:6]([H:7])([H:8])[H:9].[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],2.43294635447
[H:1].[O:2]=[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-0.791517657968
[C:1]=[C:2]([H:3])[O:4][C:5]#[C:6]>>[C:1].[C:2]([H:3])[O:4][C:5]#[C:6],5.9498267704900005
[H:1][C:2]#[C:3][C:4](=[C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.3454186099700003
[H:1][O:2][C@:3]([H:4])([C:5]#[C:6][H:7])[O:9][C:10]([H:11])([H:12])[H:13].[H:8]>>[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-2.05670253199
[C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11].[H:1][O:2]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11],-6.23446653751
[H:1][O:2][C:3]#[C:4][C:5]#[C:6][C:7]([H:8])[H:9]>>[C:6]=[C:7]([H:8])[H:9].[H:1][O:2][C:3][C:4]#[C:5],5.90434470103
[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[H:15].[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13][H:14],4.97853796842
[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],-3.61830001249
[H:11].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.80788253649
[C:6][H:7].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6][H:7],-8.40835352233
[C:4]#[C:5][C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][O:2][O:3]>>[H:1][O:2][O:3][C:4]#[C:5][C:6]([H:7])=[C:8]([H:9])[H:10],-3.95704989317
[C:10]([H:11])([H:12])[H:13].[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[H:9]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.73544459708
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[O:1]=[C:2][H:3],5.01436320716
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:7](=[C:8]([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])([H:5])[O:6],1.15033779479
[H:1][C:2][O:3][C:4][O:5][C:6][C:8]([H:9])([H:10])[H:11].[H:7]>>[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-4.654776795919999
[H:1][C:2]=[C:4]([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:3]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.97918469107
[H:1][C:2]([H:3])=[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.02866478302
[H:1][O:2][C:3]([H:4])([H:5])[C@:6]1([O:7][H:8])[C:9][C:10]1[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][H:8])[C:9]#[C:10][H:11],-1.44828847363
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][H:8]>>[C:4]([H:5])([H:6])[O:7][H:8].[H:1][C:2]=[O:3],0.65028183323
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:5][C:6]([C:7]([H:8])([H:9])[H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])[H:4],3.67766795847
[C:11]([H:12])[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13],-7.419672859119999
